US05773450
A. 2-Hydroxy-5-trifluoromethoxybenzaldehyde
Under a nitrogen atmosphere, in a round-bottom flask were placed 300 mg (1.4 mmol) of 2-methoxy-5-trifluoromethoxybenzaldehyde and 30 ml of dichloromethane. To the system, cooled in a dry ice acetone bath, were added 0.26 ml (2.7 mmol) of boron tribromide (BBr3) over a period of ca. 1 minute. The reaction mixture was stirred for 1 hour, the dry ice/acetone bath was replaced with an ice bath and the mixture was stirred for 1 hour. To the system were added slowly 10 ml of saturated aqueous sodium bicarbonate followed by 10 ml of water, and the mixture was warmed to room temperature. The mixture was extracted with two portions of dichloromethane, and the extracts were dried (Na2SO4) and concentrated. The resulting oil (280 mg) was dissolved in CH2 Cl2, and the solution was extracted with two portions of 1M aqueous NaOH. The combined aqueous extracts were acidified with 2M aqueous HCl and extracted with three portions of dichloromethane. These dichloromethane extracts were dried (Na2SO4) and concentrated to obtain 200 mg of the title compound. 1H NMR (CDCl3) Δ 6.96 (d, 1H, J=9), 7.36 (m, 2H), 9.84 (s, 1H), 10.9 (s, 1H).

reactant | 2-methoxy-5-trifluoromethoxybenzaldehyde | 1.4 mmol, 300 mg | COC1=C(C=O)C=C(C=C1)OC(F)(F)F | C9H7F3O3
reactant | boron tribromide | 2.7 mmol, 0.26 ml | B(Br)(Br)Br | BBr3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-Hydroxy-5-trifluoromethoxybenzaldehyde | 200 mg | OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C8H5F3O3
